US07737166B2
4-Cyano-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]N-(2-hydroxyethyl)-N,5-dimethyl-6-phenyl-1,3-benzoxazole-2-carboxamide (#49)
Under nitrogen atmosphere, a dimethyl sulfoxide (1 ml) solution of (3R)-3-(dimethylamino)pyrrolidine (76 μl, 598 μmol) was added at 150° C. to a dimethyl sulfoxide (9 ml) solution of N-[2-(tert-butyldiphenylsiloxy)ethyl]-4-cyano-7-fluoro-N,5-dimethyl-6-phenyl-1,3-benzoxazole-2-carboxamide (I-124) (295 mg, 499 μmol) and triethylamine (90 μl, 649 μmol), followed by stirring at the same temperature for 20 minutes. After pooling, saturated brine was added to the reaction liquid, and the reaction liquid was extracted with ethyl acetate. Next, the combined organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, filtered, and the filtrate was concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography, and the eluate with dichloromethane/methanol (10:1, v/v) gave the entitled compound (93 mg, 42%) as an amorphous substance.

reactant | dimethyl sulfoxide | 1 ml | CS(=O)C | C2H6OS
reactant | (3R)-3-(dimethylamino)pyrrolidine | 598 μmol, 76 μl | CN([C@H]1CNCC1)C | C6H14N2
reactant | dimethyl sulfoxide | 9 ml | CS(=O)C | C2H6OS
reactant | N-[2-(tert-butyldiphenylsiloxy)ethyl]-4-cyano-7-fluoro-N,5-dimethyl-6-phenyl-1,3-benzoxazole-2-carboxamide | 499 μmol, 295 mg | O([Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)CCN(C(=O)C=1OC2=C(N1)C(=C(C(=C2F)C2=CC=CC=C2)C)C#N)C | C35H34FN3O3Si
reactant | triethylamine | 649 μmol, 90 μl | C(C)N(CC)CC | C6H15N
solvent | brine | [Cl-].[Na+].O
product | 4-Cyano-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]N-(2-hydroxyethyl)-N,5-dimethyl-6-phenyl-1,3-benzoxazole-2-carboxamide | 93 mg, 42% | C(#N)C1=C(C(=C(C2=C1N=C(O2)C(=O)N(C)CCO)N2C[C@H](CC2)N(C)C)C2=CC=CC=C2)C | C25H29N5O3
